US07501430B2
7b: Preparation of tert-butyl{2-[(3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}phenyl)amino]-2-oxoethyl}carbamate
The 4-[6-(3-aminophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-{(3R)-1-[(4-chlorophenyl)-sulfonyl]piperidin-3-yl}pyrimidin-2-amine (0.1 g, 0.177 mmol) and N-(tert-butoxycarbonyl)glycine (34 mg, 0.194 mmol) were dissolved in DCM (5 ml) and treated with Hunig's base (92 uL, 0.53 mmol) and 2-chloro-1,3-dimethyl-1H-imidazol-3-ium chloride (33 mg, 0.194 mmol). The mixture was kept at room temperature for 90 minutes then was diluted with DCM (10 ml). The organic phase was washed with water (2×10 ml) and with an aqueous sodium chloride solution (10 ml). The organic phase was dried over sodium sulfate and concentrated in vacuo, giving a yellow oil. The product was purified by flash chromatography (gradient 70%-100% EtOAc/hexanes), affording the title compound as a pale yellow solid (71 mg). 400 MHz 1H NMR (DMSO-d6) δ: 9.86 (s, 1H), 8.73 (br. s, 1H), 8.11 (d, J=5.5 Hz, 1H), 7.84 (s, 1H), 7.79-7.75 (m, 2H), 7.70-7.65 (m, 3H), 7.45-7.37 (m, 2H), 7.26 (d, J=7.4 Hz, 1H), 7.13 (d, J=8.2 Hz, 1H), 6.82 (br. s, 1H), 6.42 (d, J=6.9 Hz, 1H), 4.00-3.90 (m, 1H), 3.78-3.70 (m, 3H), 3.52-3.44 (m, 1H), 3.18 (s, 2H), 2.34 (t, J=10.2 Hz, 1H), 1.94-1.81 (m, 2H), 1.65-1.52 (m, 1H), 1.39 (s, 9H). LCMS: 723 [M+H].

reactant | 4-[6-(3-aminophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-{(3R)-1-[(4-chlorophenyl)-sulfonyl]piperidin-3-yl}pyrimidin-2-amine | 0.177 mmol, 0.1 g | NC=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CN(CCC1)S(=O)(=O)C1=CC=C(C=C1)Cl | C26H24ClN7O2S2
reactant | N-(tert-butoxycarbonyl)glycine | 0.194 mmol, 34 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | Hunig's base | 0.53 mmol, 92 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-1,3-dimethyl-1H-imidazol-3-ium chloride | 0.194 mmol, 33 mg | [Cl-].ClC=1N(C=C[N+]1C)C
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl{2-[(3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}phenyl)amino]-2-oxoethyl}carbamate | 71 mg | C(C)(C)(C)OC(NCC(=O)NC1=CC(=CC=C1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CN(CCC1)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C33H35ClN8O5S2
